US06200981B1
i) N-[3-Methylphenyl]glycine, ethyl ester
A mixture of m-toluidine (10 g), ethyl bromoacetate (10.3 ml), sodium acetate (7.6 g) and water (5 ml in ethanol (50 ml) was stirred at room temperature overnight. The product was filtered off as the hydrobromide salt. Yield 11.6 g.

reactant | m-toluidine | 10 g | NC1=CC(=CC=C1)C | C7H9N
reactant | ethyl bromoacetate | 10.3 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium acetate | 7.6 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-[3-Methylphenyl]glycine, ethyl ester | CC=1C=C(C=CC1)NCC(=O)OCC | C11H15NO2
